US04873236
2-[2-[(Diethylamino)methyl]-piperidin-1-yl]ethanamine
from 2-[4-[3-(dipropylamino)propyl]-piperidin-1-yl]acetamide, 2-[4-[3-(dipropylamino)propyl]-piperidin-1-yl]ethanamine.

reactant | 2-[4-[3-(dipropylamino)propyl]-piperidin-1-yl]acetamide | C(CC)N(CCCC1CCN(CC1)CC(=O)N)CCC | C16H33N3O
reactant | 2-[4-[3-(dipropylamino)propyl]-piperidin-1-yl]ethanamine | C(CC)N(CCCC1CCN(CC1)CCN)CCC | C16H35N3
product | 2-[2-[(Diethylamino)methyl]-piperidin-1-yl]ethanamine | C(C)N(CC)CC1N(CCCC1)CCN | C12H27N3
